US05026856
7-(4-methoxy-2-isoindolinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
210 mg of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 115 mg of 4-methoxyisoindoline, 213 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 138 mg of the target compound.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 210 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 4-methoxyisoindoline | 115 mg | COC1=C2CNCC2=CC=C1 | C9H11NO
reactant | DBU | 213 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-methoxy-2-isoindolinyl)-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 138 mg | COC1=C2CN(CC2=CC=C1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)F | C22H17F3N2O4
